US08252798B2
Charge a microwave reaction vial with 4,6-dichloro-pyrimidin-5-ylamine (12.20 mmoles, 2.00 g), isopropyl alcohol (5 mL), C-(tetrahydro-pyran-4-yl)-methylamine (14.63 mmoles, 1.69 g), and N,N-diisopropylethylamine (15.85 mmoles, 2.76 mL). Irradiate with stirring at 140° C. for 2 hours with high absorbance mode in the microwave. Solvent is evaporated and residue triturated with dichloromethane to afford 6-Chloro-N*4*-(tetrahydro-pyran-4-ylmethyl)-pyrimidine-4,5-diamine

reactant | 4,6-dichloro-pyrimidin-5-ylamine | 12.20 mmoles, 2.00 g | ClC1=NC=NC(=C1N)Cl | C4H3Cl2N3
reactant | C-(tetrahydro-pyran-4-yl)-methylamine | 14.63 mmoles, 1.69 g | O1CCC(CC1)CN | C6H13NO
reactant | N,N-diisopropylethylamine | 15.85 mmoles, 2.76 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropyl alcohol | 5 mL | C(C)(C)O | C3H8O
product | 6-Chloro-N*4*-(tetrahydro-pyran-4-ylmethyl)-pyrimidine-4,5-diamine | ClC1=C(C(=NC=N1)NCC1CCOCC1)N | C10H15ClN4O
